US04127667
A. Tetrahydro-3,5-bis[(2-methylphenyl)methylene]-4H-thiopyran-4-one
Tetrahydro-4H-thiopyran-4-one (9.3 g, 0.08 mole) and o-tolualdehyde (25 g, 0.20 mole) are dissolved in 60 ml of ethanol and treated with concentrated hydrochloric acid (6 ml). After heating at reflux temperature for 4 hours, the mixture is cooled and product is collected by filtration. The combined filtrate and washings (ethanol) are concentrated to the original volume and additional concentrated hydrochloric acid (4 ml) is added and the mixture is refluxed for 4 hours. This procedure is repeated 3 times. The combined crude material (23 g) is recrystallized from chloroform/ethanol/H2O to give 22.5 g (88%) of product, m.p. 123°-125°.

reactant | Tetrahydro-4H-thiopyran-4-one | 0.08 mole, 9.3 g | S1CCC(CC1)=O | C5H8OS
reactant | o-tolualdehyde | 0.20 mole, 25 g | C=1(C(=CC=CC1)C=O)C | C8H8O
reactant | hydrochloric acid | 6 ml | Cl | ClH
solvent | ethanol | 60 ml | C(C)O | C2H6O
product | Tetrahydro-3,5-bis[(2-methylphenyl)methylene]-4H-thiopyran-4-one | 22.5 g, 88% | CC1=C(C=CC=C1)C=C1CSCC(C1=O)=CC1=C(C=CC=C1)C | C21H20OS
